US06399616B1
4-[(Trifluoromethyl)sulfonyl]furo[3,2-c]pyridine
2.1 equivalents of triflic anhydride in 10 ml of dichloromethane are added dropwise to a solution, cooled to −78° C., of 14.8 mmol of furo[3,2-c]pyridin-4(5H)-one (J. Med. Chem., 1989, 32, 1147-1156) and 2.1 equivalents of pyridine in 80 ml of dichloromethane. The reaction is continued for 1 hour at −78° C., then brought to ambient temperature for 12 hours. After hydrolysis of the reaction mixture by the addition of 20 ml of water, then extraction with dichloromethane, the organic phase is dried and filtered and then concentrated under reduced pressure. Chromatography on silica gel (dichloromethane) enables the expected product to be isolated.

reactant | triflic anhydride | 2.1 equivalents | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | furo[3,2-c]pyridin-4(5H)-one | 14.8 mmol | O1C=CC=2C(NC=CC21)=O | C7H5NO2
reactant | pyridine | 2.1 equivalents | N1=CC=CC=C1 | C5H5N
reactant | water | 20 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4-[(Trifluoromethyl)sulfonyl]furo[3,2-c]pyridine | FC(S(=O)(=O)C1=NC=CC2=C1C=CO2)(F)F | C8H4F3NO3S
